US06916959B2
In a 500 ml 4-necked flask, were poured 71.15 g (355 mmol) of tetrafluorophthalonitrile, 2.16 g (37.1 mmol) of potassium fluoride and 210 g of acetonitrile, and resulting was heated to 80° C. This mixture was kept at 80° C. with stirring, and to this mixture were dropped 4.40 g (17.7 mmol) of tetrachlorohydroquinone in 200 ml of acetonitrile over 1 hour. After dropping, reaction was performed at 80° C. for 6 hours. The reaction solution was cooled, filtrated, and the resulting residue washed with 30 ml and 15 ml of acetonitrile. After the filtrate had been concentrated on an evaporator to remove the solvent, 62.34 g of tetrafluorophthalonitrile was removed under in vacuo. To this was poured 27 ml of toluene and reflux performed for 1 hour. After cooling, the residue was washed with 5 ml, 25 ml and 5 ml of toluene, respectively, and further 12 ml of deionized water for three times. Finally, by drying the residue at 70° C. in vacuo, 9.08 g of 1,4-bis(3,4-dicyanotrifluorophenoxy)tetrachlorobenzene were obtained (yield: 84%).

reactant | tetrafluorophthalonitrile | 355 mmol, 71.15 g | FC=1C(=C(C(=C(C1C#N)C#N)F)F)F | C8F4N2
reactant | potassium fluoride | 37.1 mmol, 2.16 g | [F-].[K+]
reactant | tetrachlorohydroquinone | 17.7 mmol, 4.40 g | ClC1=C(C(=C(C(=C1O)Cl)Cl)O)Cl | C6H2Cl4O2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 210 g | C(C)#N | C2H3N
product | 1,4-bis(3,4-dicyanotrifluorophenoxy)tetrachlorobenzene | 9.08 g, yield: 84% | C(#N)C=1C(=C(OC2=C(C(=C(C(=C2Cl)Cl)OC2=C(C(=C(C(=C2F)F)C#N)C#N)F)Cl)Cl)C(=C(C1C#N)F)F)F | C22Cl4F6N4O2
